US04287197
3-Ethoxymethylisoquinoline (31 g) is dissolved in 95% sulphuric acid (density 1.83; 100 cc). The solution is cooled to 0° C. and a mixture of 95% sulphuric acid (density 1.83; 35 cc) and 70% nitric acid (density 1.42; 10.2 cc) is added dropwise in the course of 30 minutes so as not to exceed 10° C. Stirring is continued for 16 hours, whilst allowing the temperature to return to about 20° C. The mixture is then poured into a mixture of ice and water (1 liter), and an ammonia solution containing 20% of NH3 (density 0.9) is added, without exceeding 30° C., until a pH of about 10 is obtained. The yellow suspension is extracted with methylene chloride (4×200 cc). The organic extracts are combined, washed with water (2×50 cc), dried over magnesium sulphate and filtered and the filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). 3-Ethoxymethyl-5-nitroisoquinoline (24 g), melting at 54° C., is obtained.

reactant | 3-Ethoxymethylisoquinoline | 31 g | C(C)OCC=1N=CC2=CC=CC=C2C1 | C12H13NO
reactant | nitric acid | 10.2 cc | [N+](=O)(O)[O-] | HNO3
reactant | water | 1 liter | O | H2O
reactant | ammonia | N | H3N
solvent | sulphuric acid | 100 cc | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 35 cc | S(O)(O)(=O)=O | H2O4S
product | 3-Ethoxymethyl-5-nitroisoquinoline | 24 g | C(C)OCC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C12H12N2O3
